* C:\Users\vigne\Documents\LTspice\PrecisionRectifier.asc
X§U1 0 N001 +5V -5V N002 TLV271
D1 N001 N002 1N4148
R1 N001 N003 5k
V1 N003 0 SINE(0 {Vin} 1000)
V2 +5V 0 5
D2 N002 Vout 1N4148
R2 Vout 0 1k
R3 Vout N001 5k
V3 0 -5V 5
.model D D
.lib C:\Users\vigne\AppData\Local\LTspice\lib\cmp\standard.dio
.lib "C:\Users\vigne\Documents\LTspice\TLV271.txt.txt"
.tran 5m
.param Vin=3
.backanno
.end
