* C:\Users\vigne\Documents\LTspice\PrecisionRectifierFullWave.asc
X§U1 0 N001 +5V -5V N002 TLV271
D1 N001 N002 1N4148
R1 N001 Vin 5k
V1 Vin 0 SINE(0 {Vin} 1000)
V2 +5V 0 5
D2 N002 Vout_half 1N4148
V3 0 -5V 5
R3 Vout_half N001 10k
R4 N004 Vin 1k
R5 Vout_half N004 1k
R6 N003 0 1k
X§U3 N004 N003 +5V -5V V_out_full TLV271
R7 V_out_full N003 3k
R2 Vout_half 0 125
.model D D
.lib C:\Users\vigne\AppData\Local\LTspice\lib\cmp\standard.dio
.lib "C:\Users\vigne\Documents\LTspice\TLV271.txt.txt"
.tran 5m
.param Vin=1.5
.backanno
.end
